US06414148B1
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (94 mg, 4.9 mmol) was added to a mixture of 7-(3carboxypropoxy)4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (164 mg, 0.4 mmol), morpholine (0.11 g; 1.26 mmol) and 4-dimethylaminopyridine (200 mg, 1.64 mmol) in DMF (5 ml). The reaction mixture was stirred at ambient temperature for 24 hours and the volatiles were removed by evaporation. Water was added to the residue and the aqueous mixture was extracted with methylene chloride (3×30 ml). The extracts were combined and the solvent removed by evaporation. The residue was triturated with ether and the precipitate was collected by filtration. The solid was purified by column chromatography eluting with methylene chloride/methanol/aqueous ammonia (100/8/1). The purified product was triturated with acetone, collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-morpholinocarbonylpropoxy)quinazoline (88 mg, 46%).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.9 mmol, 94 mg | Cl.CN(CCCN=C=NCC)C
reactant | 7-(3carboxypropoxy)4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 0.4 mmol, 164 mg | C(=O)(O)CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C19H17ClFN3O4
reactant | morpholine | 1.26 mmol, 0.11 g | N1CCOCC1 | C4H9NO
catalyst | 4-dimethylaminopyridine | 1.64 mmol, 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-morpholinocarbonylpropoxy)quinazoline | 88 mg, 46% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCC(=O)N2CCOCC2)C=C1)F | C23H24ClFN4O4
